US08486996B2
A mixture of cyanothioacetamide (2.0 g, 20 mmol), the sodium salt of ethyl-3-oxo-butenol (2.44 g, 20 mmol) and piperidine acetate (1.9 ml) in water (20 ml) is heated at reflux before adding acetic acid (3 ml). The resulting precipitate is filtered and washed with water. The crude product is dissolved by heating in methanol. Filtering and evaporation of the solvent under reduced pressure yields 5,6-dimethyl-2-mercapto-nicotine nitrile.

reactant | cyanothioacetamide | 20 mmol, 2.0 g | C(#N)CC(=S)N | C3H4N2S
reactant | sodium | [Na] | Na
reactant | ethyl-3-oxo-butenol | 20 mmol, 2.44 g | C(C)C(=CC(C)=O)O | C6H10O2
reactant | piperidine acetate | 1.9 ml | C(C)(=O)O.N1CCCCC1
solvent | water | 20 ml | O | H2O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 5,6-dimethyl-2-mercapto-nicotine nitrile | CC=1C(=NC(=C(C#N)C1)S)C | C8H8N2S
